US04837357
120 g (1.18 mol) of triethylamine were added with vigorous stirring under reflux to a hot mixture at 50° C. of 975 g (12 mol) of 37% strength formaldehyde solution and 865 g (12 mol) of isobutyraldehyde, and the mixture was allowed to rise to 92° to 94° C. in the course of 10 minutes. Triethylamine and water were then distilled off at from 150 to 30 mbar in the course of from 15 to 20 minutes and at a maximum bottom of column temperature of from 70° to 75° C. The remaining mixture was then heated under atmospheric pressure to 160° C. in the course of 15 minutes, during which, essentially, further residues of water came off, and was stirred at that temperature for a further 160 minutes. Distillation of the mixture gave 180 g of a fraction of boiling range 80°-95° C. at 8-10 mbar, which contained 119 g (1.17 mol) of hydroxypivalinaldehyde, corresponding to 9.75%, based on the starting materials. This left a residue of 305 g which, according to analysis by gas chromatography, comprised 96% (869 g; 4.26 mol) of 2,2-dimethylpropane-1,3-diol hydroxypivalate, corresponding to a 71% yield, based on the starting materials (overall selectivity 80.75%). The residue was taken up in 1,100 ml of methanol, 15 g (0.28 mol) of sodium methanolate were added, and the mixture was stirred at room temperature for 15 hours. Neutralization with acetic acid and fractional distillation gave 496.5 g (3.76 mol) of methyl hydroxypivalate, corresponding to 88.34% yield, based on esterdiol III, and also 375.4 g (3.68 mol) of 2,2-dimethyl-1,3-propanediol, corresponding to an 86.4% yield.

reactant | triethylamine | 1.18 mol, 120 g | C(C)N(CC)CC | C6H15N
reactant | formaldehyde | C=O | CH2O
reactant | isobutyraldehyde | 12 mol, 865 g | C(C(C)C)=O | C4H8O
reactant | 2,2-dimethylpropane-1,3-diol hydroxypivalate | 4.26 mol, 869 g | OCC(C(=O)OCC(CO)(C)C)(C)C | C10H20O4
solvent | methanol | 1,100 ml | CO | CH4O
catalyst | sodium methanolate | 0.28 mol, 15 g | C[O-].[Na+]
product | methyl hydroxypivalate | 3.76 mol, 496.5 g, 71% yield | OCC(C(=O)OC)(C)C | C6H12O3
